US08614206B2
A solution of Intermediate 39, 5-bromo-4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole (550 mg, 2.01 mmol), (±) tert-butyl 2-methylpiperazine-1-carboxylate (403 mg, 2.01 mmol), DIPEA (2 mL) in EtOH (6 mL) was stirred at 130° C. for 2 hours in a microwave oven. The reaction mixture was concentrated under reduced pressure to give a residue. The residue was purified by silica gel chromatography using PE:EtOAc (1:1) as eluting solvents to afford tert-butyl (±)-2-methyl-4-(4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)piperazine-1-carboxylate as yellow solid (377 mg, 48%). MS (ESI) m/z: 394 [M+H+].

reactant | 5-bromo-4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole | 2.01 mmol, 550 mg | BrC1=C(C=NN1CC(F)(F)F)[N+](=O)[O-] | C5H3BrF3N3O2
reactant | (±) tert-butyl 2-methylpiperazine-1-carboxylate | 2.01 mmol, 403 mg | CC1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 6 mL | CCO | C2H6O
product | tert-butyl (±)-2-methyl-4-(4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)piperazine-1-carboxylate | 377 mg, 48% | CC1N(CCN(C1)C1=C(C=NN1CC(F)(F)F)[N+](=O)[O-])C(=O)OC(C)(C)C | C15H22F3N5O4
